* D:\Neuro repos\memristive-brain\test-circuits\LTSPICE\NON-memristor_neuron\multivibrator+\NE555 multivibrator+.asc
XU1 0 N002 N005 N001 N006 N002 N003 N001 NE555
C1 N001 0 100µF V=25
C2 N002 0 100µF V=25
R3 0 N004 100
R2 N003 N002 100
D§VD1 NC_01 NC_02 D
V1 N001 0 3
C3 N006 0 0.1µF
R1 N001 N003 100
D1 N005 N004 D
D2 N003 N002 D
.model D D
.lib C:\Users\Alexe\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.15
.lib NE555.sub
.backanno
.end
