* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\amplitude-filter\filter.asc
XU1 N007 inp +5 -5 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 +5 0 5
V2 -5 0 -5
XU2 N003 inp +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 inp 0 PWL file=test1.txt
A1 N002 N004 0 0 0 0 norm 0 AND Vhigh=5 Vlow=0
R1 N002 N003 10Meg
R2 P001 N003 100K
V5 P001 0 1
R3 P002 N007 100K
V6 P002 0 -1
R4 N006 N007 10Meg
XU3 0 N005 +5 -5 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N005 N006 100K
R6 N004 N005 100K
M1 N001 norm 0 0 NMOS
R7 N001 inp 100K
R8 N001 0 100K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .2
.lib UniversalOpamps2.sub
.backanno
.end
