* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\combined_sch\Draft2.asc
XU1 N064 N056 +5 -5 N063 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 +5 0 5
V2 -5 0 -5
XU2 N061 N056 +5 -5 N060 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 inp 0 PULSE(0 0.75 0 1n 1n 3m 10m)
R1 N060 N061 500K
R2 P001 N061 100K
V4 P001 0 1
R3 P002 N064 100K
V5 P002 0 -1
R4 N063 N064 500K
XU3 0 N058 +5 -5 N059 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N058 N060 100K
R6 N059 N058 100K
M1 N057 norm 0 0 Si7540DP_N
XU4 N056 N057 NC_01 MEM_KNOWM Voff=-1 Von=1 TAU=0.1 Ron=100k Roff=500k
R7 N055 af_out 10K
XU5 N053 N040 +5 -5 N048 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N040 D
D2 N052 N053 D
R8 N048 N053 0.1Meg
R9 0 N053 500K
R10 N052 0 100K
R11 N048 N040 150K
C1 N040 0 40n
C2 N052 N051 0.001µ
XU6 N055 N037 +5 -5 N054 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C3 0 N055 1µ
R12 N054 N037 10K
R13 N054 N055 1Meg
R14 N037 0 1Meg
XU7 N054 N047 +5 -5 N051 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU8 N050 N038 +5 -5 N045 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D3 0 N038 D
D4 N049 N050 D
R17 N045 N050 0.1Meg
R18 0 N050 500K
R19 N049 0 100K
R20 N045 N038 150K
C4 N038 0 20n
C5 N049 N048 0.001µ
XU9 N023 N021 +5 -5 N018 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R23 N018 N021 300K
R24 N023 0 10K
R25 N023 N022 100K
XU10 N029 N020 +5 -5 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 0 N029 1µ
R26 N029 af_out 10K
R27 N046 leak_out 10K
R28 N011 N020 10K
R29 N023 N013 100K
XU11 N026 N019 +5 -5 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D6 0 N019 D
D7 P003 N026 D
R30 N022 N026 1Meg
R31 0 N026 600K
R32 P003 0 100K
C7 P003 N011 0.02µ
R33 N022 N019 20K
C8 N019 0 600n
R34 0 N021 10K
D8 N018 P004 D
R35 N023 -5 100K
XU12 N044 N036 +5 -5 N042 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D9 0 N036 D
D10 P005 N044 D
R36 N042 N044 1Meg
R37 0 N044 600K
R38 P005 0 100K
R39 N042 N036 20K
C9 N036 0 600n
C10 P005 N013 0.02µ
XU13 N043 N041 +5 -5 N032 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R40 N032 N041 300K
R41 N043 0 10K
R42 N043 N042 100K
R43 N043 N011 100K
R44 0 N041 10K
D11 N032 P006 D
R45 N043 -5 100K
R46 Inhibitor N017 30K
R47 N017 P004 15K
R48 N031 N017 15K
R49 N011 N029 1Meg
R50 N020 0 1Meg
XU14 N046 N039 +5 -5 N013 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C11 0 N046 1µ
R51 N013 N039 10K
R52 N013 N046 1Meg
R53 N039 0 1Meg
XU15 0 N017 +5 -5 Inhibitor level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R54 N031 N033 10K
XU16 0 N033 +5 -5 N031 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R55 N033 P006 10K
C12 Inhibitor N017 0.5µ
XU17 N012 N008 +5 -5 N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R56 N005 N008 150K
R57 N012 0 10K
R58 N012 N011 100K
R59 0 N008 10K
R60 N012 N007 100K
R61 0 N007 100K
R62 N007 -5 50K
D12 N005 Sombrero D
R63 N009 N003 120K
XU18 N010 N003 +5 -5 N009 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R64 N003 Sombrero 100K
R65 N010 Sombrero 100K
Q1 N010 N016 0 0 NPN
R66 Hebbian N004 35K
R67 N004 N009 15K
R68 0 N004 15K
XU19 0 N004 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C13 Hebbian N004 0.5µ
R69 N016 Inhibitor 1K
R70 N012 N013 100K
XU20 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU21 0 N014 +5 -5 N015 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R71 N002 N001 R=((1-V(mod))*100K+1m)
R72 N001 Sombrero 100K
R73 N014 Hebbian 100K
R74 N015 N014 R=(V(mod)*100K+1m)
XU22 0 N006 +5 -5 out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R75 out N006 100K
R76 N006 N002 200K
R77 N006 N015 100K
V10 mod 0 0
XU23 0 N027 +5 -5 N028 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU24 0 N034 +5 -5 N035 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R78 N028 N027 R=((1-V(mod2))*100K+1m)
R79 N027 N025 100K
R80 N034 Hebbian 100K
R81 N035 N034 R=(V(mod2)*100K+1m)
XU25 0 N030 +5 -5 out2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R82 out2 N030 100K
R83 N030 N028 200K
R84 N030 N035 100K
V11 mod2 0 PWL file=test1.txt
XU26 0 N024 +5 -5 N025 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R85 N025 N024 100K
R86 N024 Sombrero 100K
XU29 N066 Hebbian +5 -5 N065 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU30 N057 af_out +5 -5 af_out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V6 N047 0 0.2
XU31 N045 leak_out +5 0 leak_out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
M2 inp N065 0 0 Si7540DP_N
V7 N066 0 0.1
XU32 inp N056 +5 -5 N056 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU27 Hebbian N062 +5 -5 N062 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU28 N063 N059 +5 -5 N059 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU33 N059 norm +5 0 norm level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.lib memristor_with_state.sub
.lib UniversalOpamps2.sub
.backanno
.end
