* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\combined_sch\Draft3.asc
XU1 N001 N002 NC_01 MEM_KNOWM Ron=50k Roff=15meg Voff=1 Von=1 TAU=0.00001
R1 N002 N001 500
V1 N001 0 2
R2 0 N002 750
R3 N002 N001 5000
.tran 1
.lib memristor_with_state.sub
.backanno
.end
