* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\combined_sch\Draft4.asc
V1 N004 0 SINE(-5 0.001 30k 0) AC 0.1
R1 N001 N004 100
R2 0 N001 100
R3 N003 N001 100K
C1 N003 0 10µ
R4 N002 0 10Meg
Q1 N001 N003 N002 0 BC327-25
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0.01
.backanno
.end
