* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\dopamine-modulation\main_device_schematics\In-Ex-Pulse.asc
XU3 N018 N016 +5 -5 N013 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N013 N016 300K
R12 N018 0 10K
R10 N018 N017 100K
XU1 N020 N015 +5 -5 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N020 1µ
R1 N020 Tpre 10K
R15 N030 Tpost 10K
R3 N008 N015 10K
R11 N018 N010 100K
XU2 N019 N014 +5 -5 N017 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N014 D
D2 P001 N019 D
R7 N017 N019 1Meg
R8 0 N019 600K
R5 P001 0 100K
C2 P001 N008 0.02µ
R6 N017 N014 20K
C3 N014 0 600n
R13 0 N016 10K
D3 N013 P002 D
R9 N018 -5 100K
XU5 N029 N024 +5 -5 N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N024 D
D5 P003 N029 D
R21 N027 N029 1Meg
R22 0 N029 600K
R19 P003 0 100K
R20 N027 N024 20K
C6 N024 0 600n
C5 P003 N010 0.02µ
XU6 N028 N026 +5 -5 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N022 N026 300K
R26 N028 0 10K
R24 N028 N027 100K
R25 N028 N008 100K
R27 0 N026 10K
D6 N022 P004 D
R23 N028 -5 100K
R33 Sine N012 30K
R31 N012 P002 15K
R32 N021 N012 15K
R4 N008 N020 1Meg
R2 N015 0 1Meg
XU4 N030 N025 +5 -5 N010 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N030 1µ
R17 N010 N025 10K
R18 N010 N030 1Meg
R16 N025 0 1Meg
XU8 0 N012 +5 -5 Sine level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 N021 N023 10K
XU7 0 N023 +5 -5 N021 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R29 N023 P004 10K
C7 Sine N012 0.5µ
XU9 N009 N005 +5 -5 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R45 N003 N005 150K
R43 N009 0 10K
R41 N009 N008 100K
R44 0 N005 10K
R40 N009 N004 100K
R39 0 N004 100K
R38 N004 -5 50K
D7 N003 Sombrero D
R48 N006 N001 120K
XU10 N007 N001 +5 -5 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R46 N001 Sombrero 100K
R47 N007 Sombrero 100K
Q2 N007 N011 0 0 NPN
R51 Hebbian N002 35K
R49 N002 N006 15K
R50 0 N002 15K
XU11 0 N002 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N002 0.5µ
R71 N011 Sine 1K
V1 +5 0 5
V2 0 -5 5
V3 Tpost 0 PULSE(0 3 50m 1n 1n 20m 118m)
V4 Tpre 0 PULSE(0 3 10m 1n 1n 20m 120m)
R42 N009 N010 100K
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 5 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
